US09303023B2
To a solution of 5,6-dimethoxy-1-(2-(4-nitro-1H-pyrazol-1-yl)ethyl)indoline (1.53 g, 4.81 mmol) in MeOH (50 mL), PtO2 (200 mg, 0.88 mmol) was added and the reaction mixture was stirred at rt under a H2-atmosphere for 1 h. The mixture was diluted with EtOH, filtered over celite and the filter cake was rinsed with MeOH. The filtrate was concentrated under reduced pressure to obtain 1-(2-(5,6-dimethoxyindolin-1-yl)ethyl)-1H-pyrazol-4-amine as a brown oil, which was used in the next step without further purification. LC-MS conditions B: tR=0.38 min, [M+H]+=289.18.

reactant | 5,6-dimethoxy-1-(2-(4-nitro-1H-pyrazol-1-yl)ethyl)indoline | 4.81 mmol, 1.53 g | COC=1C=C2CCN(C2=CC1OC)CCN1N=CC(=C1)[N+](=O)[O-] | C15H18N4O4
solvent | MeOH | 50 mL | CO | CH4O
solvent | EtOH | CCO | C2H6O
catalyst | PtO2 | 0.88 mmol, 200 mg | O=[Pt]=O
product | 1-(2-(5,6-dimethoxyindolin-1-yl)ethyl)-1H-pyrazol-4-amine | COC=1C=C2CCN(C2=CC1OC)CCN1N=CC(=C1)N | C15H20N4O2
